### ISSUE TITLE
The statement cannot be decoded

### ISSUE THREAD

**Issue by FlAmmmmING** [stanford-centaur/PyPantograph#118]
Hello! I've encountered another issue. When I use load_sorry to validate the following theorem:
```lean4
theorem lean_workbook_plus_31037 : ∀ n : ℕ, (Nat.choose 2 * n) n = ∑ k in Finset.range (n+1), ((Nat.choose n k)^2) := by sorry
```
it throws an error saying "Cannot decode". However, when I change the statement to:
```lean4
theorem lean_workbook_plus_31037 (n : ℕ) : (Nat.choose 2 * n) n = ∑ k in Finset.range (n+1), ((Nat.choose n k)^2) := by sorry
```
it works successfully.

The strange thing is that both versions compile successfully in my Lean project, but only the second one passes through my tool. What could be causing this issue? Is there a way to make the first form work as well with the tool?

**Comment by lenianiva** [comment]
could be some sort of json parsing bug

**Comment by lenianiva** [comment]
I don't know what changed, but seems like #119 does not have this problem.

MWE:
```lean
import Mathlib

theorem lean_workbook_plus_31037 : ∀ n : ℕ, (Nat.choose 2 * n) n = ∑ k in Finset.range (n+1), ((Nat.choose n k)^2) := by sorry
```

```python
#!/usr/bin/env python3

from pathlib import Path
from pantograph.server import Server

current_path = Path(__file__).parent.resolve()

if __name__ == '__main__':
    project_path = Path("/path/to/mathlib")
    server = Server(imports=['Mathlib'], project_path=project_path)
    units = server.tactic_invocations(current_path / "CannotDecode.lean")
    print(units)
```
which successfully executes.
